US05155113
Preparation of 4-(3-benzyloxycarbonylbenzoyloxy)-2-pyridone
The general procedure of Example 1 was repeated using 2.80 g of 4-hydroxy-2-pyridone and 14.70 g of 3-benzyloxycarbonylbenzoyl chloride, thereby producing 4.29 g of the title compound in a yield of 49%.

reactant | 4-hydroxy-2-pyridone | 2.80 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 3-benzyloxycarbonylbenzoyl chloride | 14.70 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C(=O)Cl)C=CC1 | C15H11ClO3
product | 4-(3-benzyloxycarbonylbenzoyloxy)-2-pyridone | 4.29 g, yield of 49% | C(C1=CC=CC=C1)OC(=O)C=1C=C(C(=O)OC2=CC(NC=C2)=O)C=CC1 | C20H15NO5
